US08039450B2
To a 50 mL round-bottom flask fitted with magnetic stirring bar was added 6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile (1.0 g, 4.0 mmol, 1.0 eq.), followed by addition of EtOH (40 mL) and THF (15 mL). The flask was evacuated and recharged with N2 twice. To the stirring solution was added 5% Pd/C (300 mg) and the flask was evacuated and recharged with H2 three times. The resulting suspension was stirred under a H2 balloon at room temperature over 3 days. The mixture was filtered through a short pack of celite and washed with EtOH (3×25 mL). The combined filtrate was concentrated under reduced pressure, the residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give a white solid. The solid was dissolved in minimum amount of MeOH and carefully treated with HCl in Et2O. The precipitate was collected by filtration and washed with Et2O to give 5-(5-aminomethyl-pyridin-2-yloxy)-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride a white solid. 1H NMR (DMSO-d6) δ: 9.95 (br. s., 1H), 8.28 (d, J=2.2 Hz, 1H), 8.11 (dd, J=8.5, 2.4 Hz, 1H), 7.75 (d, J=8.0 Hz, 1H), 7.07-7.14 (m, 2H), 7.05 (dd, J=7.9, 2.0 Hz, 1H), 4.94 (s, 2H), 4.14 (t, J=5.6 Hz, 2H).

reactant | 6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile | 4.0 mmol, 1.0 g, 1.0 eq. | OB1OCC2=C1C=CC(=C2)OC2=NC=C(C#N)C=C2 | C13H9BN2O3
reactant | EtOH | 40 mL | CCO | C2H6O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-(5-aminomethyl-pyridin-2-yloxy)-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride | Cl.NCC=1C=CC(=NC1)OC1=CC2=C(B(OC2)O)C=C1 | InChI=1S/C13H13BN2O3.ClH/c15-6-9-1-4-13(16-7-9)19-11-2-3-12-10(5-11)8-18-14(12)17;/h1-5,7,17H,6,8,15H2;1H
